US08404684B2
Step 3) 1-[5-(2-Cyano-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-3-[2-(1-isopropyl-1H-imidazol-4-yl)-ethyl]-urea
Sodium cyanide (0.069 g, 1.4 mmol) is added to a stirred solution of 1-[2-(1-isopropyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea (0.21 g, 0.47 mmol) in dry DMSO (10 ml). The reaction is stirred at 50° C. under argon for 3 hours then the solvent is removed. The residue is dissolved in DCM and washed with water. The organic extract is dried (MgSO4) and the solvent removed to give the titled compound.

reactant | Sodium cyanide | 1.4 mmol, 0.069 g | [C-]#N.[Na+]
reactant | 1-[2-(1-isopropyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | 0.47 mmol, 0.21 g | C(C)(C)N1C=NC(=C1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)(=O)C | C19H25N7O3S2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-[5-(2-Cyano-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-3-[2-(1-isopropyl-1H-imidazol-4-yl)-ethyl]-urea | C(#N)C1=NC(=CC(=N1)C1=C(N=C(S1)NC(=O)NCCC=1N=CN(C1)C(C)C)C)C | C19H22N8OS
